US09422244B2
179 g N-(4-{[(2,3-diaza-spiro[4.4]non-3-en-2-yl)-ethylamino-methylene]sulfamoyl}-phenyl)acetamide was dissolved in 2685 mL EtOH, and 1370 mL of 1M HCl (3 mol equiv.) was added. The mixture was stirred at 55° C. for 45 h. and concentrated under reduced pressure. The residue was taken up in 2200 mL butyl acetate, and 3800 mL of 5% aqueous NaHCO3 was dosed over a period of 55 minutes under stirring. The organic phase was separated and the aqueous phase was extracted with 200 mL butyl actetate. The combined organic layers were washed with 1300 mL water and evaporated to dryness to give 133 g of crude material. The residue was recrystallized from 800 mL of EtOH and dried in vacuo at 50° C. to give 87.8 g (55%) of 4-amino-N-[(2,3-diaza-spiro[4.4]non-3-en-2-yl)-ethylamino-methylene]-benzenesulfonamide. 1H NMR (400 MHz, CDCl3) δ 1.14 (t, J=7.22 Hz, 3H), 1.47-1.89 (m, 8H), 3.35-3.57 (m, 2H), 3.79 (s, 2H), 4.02 (br.s., 2H), 6.65 (d, J=8.73 Hz, 2H), 6.78 (s, 1H), 6.91 (br. s., 1H), 7.70 (d, J=8.73 Hz, 2H).

reactant | N-(4-{[(2,3-diaza-spiro[4.4]non-3-en-2-yl)-ethylamino-methylene]sulfamoyl}-phenyl)acetamide | 179 g | C1N(N=CC12CCCC2)C(NCC)=NS(=O)(=O)C2=CC=C(C=C2)NC(C)=O | C18H25N5O3S
reactant | HCl | 3 mol, 1M, 1370 mL | Cl | ClH
solvent | EtOH | 2685 mL | CCO | C2H6O
product | 4-amino-N-[(2,3-diaza-spiro[4.4]non-3-en-2-yl)-ethylamino-methylene]-benzenesulfonamide | 87.8 g, 55% | NC1=CC=C(C=C1)S(=O)(=O)N=C(NCC)N1CC2(C=N1)CCCC2 | C16H23N5O2S
